US08217064B2
2-[6-Amino-5-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-3-yl]-3-cyclobutyl-propionic acid Methyl Ester
To a solution of 2-[4-amino-3-bromo-5-(2,2,2-trifluoro-ethoxy)-phenyl]-3-cyclobutyl-propionic acid methyl ester (13.8 g, 29.6 mmol) in DME (anhydrous, 100 mL) under argon atmosphere were added 4-trifluoromethylphenylboronic acid (6.8 g, 35.8 mmol), CsF (11 g, 72.3 mmol), and Pd(PPh3)4 (3.4 g, 2.94 mmol). The reaction mixture was refluxed for 18 h (oil bath, 100° C.). On the next day, a mixture water and EtOAc (100 mL/100 mL) was added and the layers were separated. The organic phase was dried over MgSO4 and evaporated to give a crude yellow oil, which was purified by a short silica gel column chromatography by use of Heptane-EtOAc (4:1) to give the product (14.7 g, 94%) as a yellowish oil. 1H NMR (300 MHz, CDCl3/TMS): δ 7.70 (d, J=8.2 Hz, 2H), 7.59 (d, J=8.0 Hz, 2H), 6.78 (dd, J=9.6, 1.4 Hz, 2H), 4.43 (q, J=8.0 Hz, 2H), 3.95 (br s, 2H), 3.66 (s, 3H), 3.39 (t, J=7.7 Hz, 1H), 2.25-2.07 (m, 2H), 2.03-1.91 (m, 2H), 1.88-1.75 (m, 3H), 1.69-1.52 (m, 2H). 13C NMR (75 MHz, CDCl3/TMS): δ 174.6, 144.8, 133.1, 129.2, 128.6, 126.3, 125.7 (q, 3JCF=3.6 Hz), 123.8, 123.3 (q, 1JCF=277.6 Hz), 111.4, 66.5 (q, 1JCF=35.4 Hz), 52.0, 49.0, 40.9, 34.1, 28.3, 28.1, 18.5.

reactant | 2-[4-amino-3-bromo-5-(2,2,2-trifluoro-ethoxy)-phenyl]-3-cyclobutyl-propionic acid methyl ester | 29.6 mmol, 13.8 g | COC(C(CC1CCC1)C1=CC(=C(C(=C1)OCC(F)(F)F)N)Br)=O | C16H19BrF3NO3
reactant | 4-trifluoromethylphenylboronic acid | 35.8 mmol, 6.8 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | CsF | 72.3 mmol, 11 g | [F-].[Cs+]
reactant | water | O | H2O
solvent | DME | 100 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 2.94 mmol, 3.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-[6-Amino-5-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-3-yl]-3-cyclobutyl-propionic acid Methyl Ester | 14.7 g, 94% | COC(C(CC1CCC1)C=1C=C(C(=C(C1)OCC(F)(F)F)N)C1=CC=C(C=C1)C(F)(F)F)=O | C23H23F6NO3
